US07713994B2
To a 0° C. solution of give N,N-dimethyl-N-{2-[(4-nitrophenyl)thio]ethyl}amine (0.50 g, 2.2 mmol) in methanol/tetrahydrofuran/water (33 mL, 1:1:1) is added dropwise an aqueous solution of OXONE®, monopersulfate compound (2.7 g, 9.5 mL). The reaction mixture is stirred for one week at room temperature and then quenched by the addition of an aqueous sodium hydrogen sulfite solution (3 g, 20 mL). The mixture is then basified to pH 8 with concentrated ammonium hydroxide and extracted 3× with dichloromethane. The combined extracts were washed with aqueous 5% sodium thiosulfite solution (100 mL) and water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give a golden oil, which solidified upon standing. The crude solid (0.31 g) is purified by flash chromatography (Isco 12 g Redi-Sep column, MeOH/CHCl3) to give dimethyl-[2-(4-nitro-benzenesulfonyl)-ethyl]-amine.

reactant | N,N-dimethyl-N-{2-[(4-nitrophenyl)thio]ethyl}amine | 2.2 mmol, 0.50 g | CN(CCSC1=CC=C(C=C1)[N+](=O)[O-])C | C10H14N2O2S
reactant | OXONE | OOS(=O)[O-].[K+]
reactant | methanol tetrahydrofuran water | 33 mL | CO.O1CCCC1.O
product | dimethyl-[2-(4-nitro-benzenesulfonyl)-ethyl]-amine | CN(CCS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])C | C10H14N2O4S
